US07282499B2
Thionyl cloride (4 mL) is slowly added at room temperature over a solution of 2-(1-(3,4-dichlorophenyl)-4,5,6,7-tetrahydro-1H-indazol-4-yl)ethanol (512 mg, 1.65 mmol) in 20 mL of toluene. The reaction mixture is heated at 90° C. during 2 hours. The solvent is eliminated at reduced pressure. The crude is diluted in ethyl acetate and washed twice with a NaHCO3 solution. The solvent is next evaporated at reduced pressure to obtain 4-(2-chloroethyl)-4,5,6,7-tetrahydro-1-(3,4-dichlorophenyl)-1H-indazole (462 mg, 1.40 mmol, 85%, oil).

reactant | Thionyl cloride | 4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(1-(3,4-dichlorophenyl)-4,5,6,7-tetrahydro-1H-indazol-4-yl)ethanol | 1.65 mmol, 512 mg | ClC=1C=C(C=CC1Cl)N1N=CC=2C(CCCC12)CCO | C15H16Cl2N2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-chloroethyl)-4,5,6,7-tetrahydro-1-(3,4-dichlorophenyl)-1H-indazole | 1.40 mmol, 462 mg, 85% | ClCCC1C=2C=NN(C2CCC1)C1=CC(=C(C=C1)Cl)Cl | C15H15Cl3N2
